US08053438B2
A mixture of (1H-benzo[d]imidazol-2-yl)(4-(3-chloropyrazin-2-yloxy)phenyl)methanone (300 mg, 0.855 mmol), potassium phosphate (545 mg, 2.57 mmol), 2-(trifluoromethyl)pyridin-4-ylboronic acid (490 mg, 2.57 mmol), and Bis-[4-(di-tert-butylphosphino)-N,N-dimethylbenzenamine]palladium dichloride (121 mg, 0.171 mmol) in dimethoxyethane was heated to 80° C. Following complete reaction, the mixture was cooled to room temperature which caused a solid to precipitate which was collected by filtration and dried to give (1H-benzo[d]imidazol-2-yl)(4-(3-(2-(trifluoromethyl)pyridin-4-yl)pyrazin-2-yloxy)phenyl)methanone. MS (ESI, pos. ion) m/z: 461.0 (M+1). IC50 (uM) +++++.

reactant | (1H-benzo[d]imidazol-2-yl)(4-(3-chloropyrazin-2-yloxy)phenyl)methanone | 0.855 mmol, 300 mg | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2Cl | C18H11ClN4O2
reactant | potassium phosphate | 2.57 mmol, 545 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-(trifluoromethyl)pyridin-4-ylboronic acid | 2.57 mmol, 490 mg | FC(C1=NC=CC(=C1)B(O)O)(F)F | C6H5BF3NO2
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | (1H-benzo[d]imidazol-2-yl)(4-(3-(2-(trifluoromethyl)pyridin-4-yl)pyrazin-2-yloxy)phenyl)methanone | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C2=CC(=NC=C2)C(F)(F)F | C24H14F3N5O2
